US07820670B2
Step D: 6-Chloro-imidazo[1,2-b]pyridazine
A mixture of 6-chloro-pyridazinamine (5.00 g, 38 mmol) in 1-butanol (5 mL) was treated with chloroacetaldehyde (50% in water, 5.0 mL, 38 mmol) and the tan suspension was refluxed two hours and to give a dark solution. The reaction mixture was cooled to room temperature and the solid was collected by filtration and washed with methanol to afford a brown solid (3.04 g); evaporation of the filtrate gave additional product (4.60 g). The solids were combined (7.64 g) and used in the next reaction without further purification: MS [M+H]+ 154.

reactant | 6-chloro-pyridazinamine | 38 mmol, 5.00 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | chloroacetaldehyde | 38 mmol, 5.0 mL | ClCC=O | C2H3ClO
solvent | 1-butanol | 5 mL | C(CCC)O | C4H10O
product | 6-Chloro-imidazo[1,2-b]pyridazine | 3.04 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
